US08022062B2
4-(1-Hydroxy-2-methyl-butyl)-1-bromo-benzene:
Add slowly a solution of 2-bromo-butane (4.8 g, 35 mmol) in anhydrous THF (20 mL) to a stirring mixture of magnesium (980 mg, 37 mmol) and anhydrous THF (10 mL) under a nitrogen atmosphere. Heat the mixture at reflux for 30 min. Cool the mixture to room temperature and add 4-bromo-benzaldehyde (5.36 g, 29 mmol). After stirring for 5 min, cool the mixture in an ice-bath and acidify with 3N aqueous HCl (50 mL). Dilute the mixture with water and extract twice with diethyl ether. Wash the combined organic extracts with water and brine. Dry the organic phase over Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0, 20:1 and 1:1) to provide the desired intermediate as a clear oil (2 g, 28%). MS (APCI) m/z: 243 (M+H)+.

reactant | 2-bromo-butane | 35 mmol, 4.8 g | BrC(C)CC | C4H9Br
reactant | magnesium | 37 mmol, 980 mg | [Mg] | Mg
reactant | 4-bromo-benzaldehyde | 29 mmol, 5.36 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | HCl | 3N, 50 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(1-Hydroxy-2-methyl-butyl)-1-bromo-benzene | 2 g, 28% | OC(C(CC)C)C1=CC=C(C=C1)Br | C11H15BrO
